US07202257B2
Ethyl bromoacetate is reacted with meta-nitrophenol under standard conditions to afford ethyl 2-(3-nitrophenoxy)acetate, which is elaborated to ethyl 2-(3-hydrazinophenoxy)acetate using the reduction/oxidation sequence described for Example Y.

reactant | Ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | meta-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
product | ethyl 2-(3-nitrophenoxy)acetate | [N+](=O)([O-])C=1C=C(OCC(=O)OCC)C=CC1 | C10H11NO5
